US08492414B2
5-Bromomethyl-3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazole: (V-c)
To a solution of [3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol (0.10 g, 0.36 mmol) in toluene (5 ml) was added PBr3 (0.050 ml, 0.54 mmol) and the resulting reaction mixture was refluxed at 120° C. for 15 min. After the completion of the reaction (TLC monitoring), the reaction mixture was cooled to 0° C., added water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organics was washed with saturated NaHCO3 solution, dried over Na2SO4, filtered and concentrated under vacuum to get the desired product (0.11 g, 89%).

reactant | [3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol | 0.36 mmol, 0.10 g | FC(OC1=CC=C(C=C1)C1=NSC(=N1)CO)(F)F | C10H7F3N2O2S
reactant | PBr3 | 0.54 mmol, 0.050 ml | P(Br)(Br)Br | Br3P
reactant | water | 50 ml | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromomethyl-3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazole | 0.11 g, 89% | BrCC1=NC(=NS1)C1=CC=C(C=C1)OC(F)(F)F | C10H6BrF3N2OS
